US08304419B2
Step A: Methyl 3-chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylate
Cycloproplyamine (0.166 g, 2.90 mmol) was added to a solution of methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate (0.150 g, 0.580 mmol) in THF and the resulting solution stirred until no starting material was evident by TLC. The solvent was evaporated and purification was accomplished by silica gel column chromatography (30-100% EtOAc/hexanes) to afford the title compound (0.099 g, 70%) as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 10.81 (br. s., 1H), 7.71 (br. s., 1H), 6.78 (s, 1H), 3.84 (s, 3H), 2.79-2.92 (m, 1H), 0.73 (d, 2H), 0.57 (d, 2 H) LCMS: m/z 243.1 (M+1).

reactant | Cycloproplyamine | 2.90 mmol, 0.166 g | C1(CC1)N | C3H7N
reactant | methyl 3-chloro-5-(chlorocarbonyl)-1H-pyrrole-2-carboxylate | 0.580 mmol, 0.150 g | ClC1=C(NC(=C1)C(=O)Cl)C(=O)OC | C7H5Cl2NO3
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 3-chloro-5-[(cyclopropylamino)carbonyl]-1H-pyrrole-2-carboxylate | 0.099 g, 70% | ClC1=C(NC(=C1)C(=O)NC1CC1)C(=O)OC | C10H11ClN2O3
